US04851526
1-[2-(4-Chlorophenyl)ethyl]-4-[(4-nitrophenoxy)methyl]piperidine
In a manner similar to Preparation 2, react 1-[2-(4-chlorophenyl)ethyl]-4-piperidinemethanol with 1-fluoro4-nitrobenzene to obtain the title compound.

reactant | 1-[2-(4-chlorophenyl)ethyl]-4-piperidinemethanol | ClC1=CC=C(C=C1)CCN1CCC(CC1)CO | C14H20ClNO
reactant | 1-fluoro4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-[2-(4-Chlorophenyl)ethyl]-4-[(4-nitrophenoxy)methyl]piperidine | ClC1=CC=C(C=C1)CCN1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C20H23ClN2O3
